US08247410B2
To a solution of 5-(8-Bromo-9-sec-butyl-2-morpholin-4-yl-9H-purin-6-yl)-pyrimidin-2-ylamine, (20 mg, 0.046 mmol), Pd(dppf)Cl2, (3 mg, 8% mmol) in 3 ml of anhydrous dioxane, was added slowly dimethyl zinc (230 μl, 1.0M in heptane solution). The mixture was heated to about 65° C. until in the sealed tube. MeOH was added dropwise and solvents were removed in vacuo. EtOAc was added to the residue and the resulting solution washed with 1 M HCl, water, brine and then dried over Na2SO4. The solvent was removed and the crude mixture was subjected to flash chromatography to obtain 5-(9-sec-Butyl-8-methyl-2-morpholin-4-yl-9H-purin-6-yl)-pyrimidin-2-ylamine 8 mg in a yield of 47%. 1H NMR, MeOD: 9.45 (s, 2H); 4.55 (m, 1H); 3.87 (m, 4H); 3.80 (s, 4H); 2.69 (s, 3H); 2.43 (m, 1H); 2.02 (m, 1H); 1.71 (d, 3H); 0.86 (t, 3H). m/z: 369.22 [MH]+.

reactant | 5-(8-Bromo-9-sec-butyl-2-morpholin-4-yl-9H-purin-6-yl)-pyrimidin-2-ylamine | 0.046 mmol, 20 mg | BrC=1N(C2=NC(=NC(=C2N1)C=1C=NC(=NC1)N)N1CCOCC1)C(C)CC | C17H21BrN8O
reactant | dimethyl zinc | 1.0M, 230 μl | C[Zn]C
reactant | MeOH | CO | CH4O
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-(9-sec-Butyl-8-methyl-2-morpholin-4-yl-9H-purin-6-yl)-pyrimidin-2-ylamine | 8 mg, yield of 47% | C(C)(CC)N1C2=NC(=NC(=C2N=C1C)C=1C=NC(=NC1)N)N1CCOCC1 | C18H24N8O
